US08114868B2
Step 5: 3-{(S)-1-[4-(1-Cyclopropyl-2-oxo-1,2-dihydro-pyridin-4-yl)-3-methyl-phenyl]-ethyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methyl-propyl)-3-{(S)-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-6-phenyl-[1,3]oxazinan-2-one and 4-bromo-1-cyclopropyl-1H-pyridin-2-one following a procedure analogous to that described in Step 5 of Example 96. LC-MS (Method 5): tR=3.42 min; Mass spectrum (ESI+): m/z=501 [M+H]+.

reactant | (S)-6-(2-hydroxy-2-methyl-propyl)-3-{(S)-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-6-phenyl-[1,3]oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC=CC=C1)(C)C | C29H40BNO5
reactant | 4-bromo-1-cyclopropyl-1H-pyridin-2-one | BrC1=CC(N(C=C1)C1CC1)=O | C8H8BrNO
product | 3-{(S)-1-[4-(1-Cyclopropyl-2-oxo-1,2-dihydro-pyridin-4-yl)-3-methyl-phenyl]-ethyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | C1(CC1)N1C(C=C(C=C1)C1=C(C=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)C)=O | C31H36N2O4
